US07842696B2
DIPEA (273 mg, 0.37 mL, 2.1 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (198.2 mg, 0.56 mmol) in DMF (3 mL). HOBT (69.7 mg, 0.51 mmol) and EDCI (225 mg, 1.1 mmol) were then added at room temperature. After 2 minutes, 2′,3′-difluoro-biphenyl-4-carboxylic acid (110 mg, 0.46 mmol) (prepared by the method as described above) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 60% EtOAc in Hexane as eluent) to afford 120 mg (48.07% yield) of 2′,3′-difluoro-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 82.25%. 1H NMR (DMSO-d6): δ 8.8 (s, 1H), 8.2-8.0 (d, 2H), 7.9-7.64 (m, 5H), 7.62-7.1 (m, 4H), 4.2 (d, 2H), 3.8-3.54 (m, 4H), 3.52-3.4 (m, 2H), 3.2-3.08 (m, 2H).

reactant | DIPEA | 2.1 mmol, 0.37 mL, 273 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.56 mmol, 198.2 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.51 mmol, 69.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.1 mmol, 225 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2′,3′-difluoro-biphenyl-4-carboxylic acid | 0.46 mmol, 110 mg | FC1=C(C=CC=C1F)C1=CC=C(C=C1)C(=O)O | C13H8F2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2′,3′-difluoro-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 120 mg, 48.07% yield | O=C(CNC(=O)C1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H22F5N3O3
